US04912105
A mixture of 2-(2-cyano-10-phenothiazinyl)-(2RS)-1-propyl methanesulphonate (10 g) and pyrrolidine (11.6 cc) in toluene (50 cc) is brought to 90° C. while stirring for 24 hours. After cooling, the mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and the residue is taken up in ethyl ether (200 cc) and a 4N aqueous solution of sodium hydroxide (15 cc). After stirring for 10 minutes, the organic phase is decanted and washed with a saturated aqueous solution of sodium chloride (3×25 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 20° C. The residual oil (11.3 g) is dissolved in a 0.05N aqueous solution of hydrochloric acid (60 cc). This solution is washed with ethyl ether (100 cc), then rendered alkaline with an excess of a N aqueous solution of sodium hydroxide and extracted with ethyl ether (100 cc). The organic phase is washed with a saturated aqueous solution of sodium chloride (50 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 20° C. The residual yellow oil (9.5 g) is purified on a column (height: 30 cm; diameter: 5.8 cm) of silica gel (0.04-0.063 mm) under a slight overpressure of nitrogen (40 kPa), eluting with a liter of a mixture of methylene chloride and methanol (95-5 by volume) and collecting fractions of 100 cc. Fractions 3 to 10 are pooled and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile (5.45 g) is thus obtained in the form of a yellow oil.

reactant | 2-(2-cyano-10-phenothiazinyl)-(2RS)-1-propyl methanesulphonate | 10 g | CS(=O)(=O)OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
reactant | pyrrolidine | 11.6 cc | N1CCCC1 | C4H9N
solvent | toluene | 50 cc | C1(=CC=CC=C1)C | C7H8
product | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile | 5.45 g | N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C20H21N3S
